US07030128B2
A degassed solution of 4-bromoisothiazole (1.43 g, 8.7 mmol) and bis(neopentyl glycolato)diboron (1.97 g, 8.7 mmol) was reacted as in Example 19 and gave 4-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)isothiazole (0.85 g) as an off-white solid: δH (400 MHz, CDCl3) 1.03 (6H, s), 3.76 (2H, s), 8.74 (1H, s), 9.02 (1H, s); m/z (ES+) 130 (M++H).

reactant | 4-bromoisothiazole | 8.7 mmol, 1.43 g | BrC=1C=NSC1 | C3H2BrNS
reactant | bis(neopentyl glycolato)diboron | 8.7 mmol, 1.97 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
product | 4-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)isothiazole | 0.85 g | CC1(COB(OC1)C=1C=NSC1)C | C8H12BNO2S
